US04891372
3-(2-Azidoethyl)-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine
7-Nitro-1,2,4,5-tetrahydro-3H-3-benzazepine (1.1 g), 2-methanesulphonyloxyethyl azide (0.92 g) and potassium carbonate (0.76 g) were heated under reflux in acetonitrile for 18 hours. The solvent was evaporated in vacuo and the residue taken up in ethyl acetate then washed three times with aqueous sodium carbonate and three times with brine. The organic layer was dried, filtered and evaporated in vacuo to give an oil which was purified by chromatography on silica eluting with ethyl acetate/hexane (1:1). The product-containing fractions were combined and evaporated to give the title compound as an oil, yield 0.65 g, which was used without further purification.

reactant | 7-Nitro-1,2,4,5-tetrahydro-3H-3-benzazepine | 1.1 g | [N+](=O)([O-])C1=CC2=C(CCNCC2)C=C1 | C10H12N2O2
reactant | 2-methanesulphonyloxyethyl azide | 0.92 g | CS(=O)(=O)OCCN=[N+]=[N-] | C3H7N3O3S
reactant | potassium carbonate | 0.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(2-Azidoethyl)-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine | N(=[N+]=[N-])CCN1CCC2=C(CC1)C=CC(=C2)[N+](=O)[O-] | C12H15N5O2
